US04247693
A process for preparing 2,4,5,6-tetraaminopyrimidine sulfate is disclosed. The process comprises: (1) reacting about one molecular proportion of 5-nitroso-2,4,6-triaminopyrimidine (NTAP) in water with about 2.0 to 2.5 molecular proportions of zinc dust and about 4.0 to 4.7 molecular proportions of a suitable acid, to provide a reaction mixture having a pH below 7; (2) reacting the reaction mixture at a temperature of about 20° to 65° C. to form the acid salt of 2,4,5,6-tetraaminopyrimidine; (3) adjusting the pH to about 2.0 to 2.5 by adding the suitable acid to form a solution of the acid salt; (4) separating the insoluble materials from step (3) to obtain a wet cake and a mother liquor; (5) adding sulfuric acid to the mother liquor to adjust the pH to about 0.2 to 0.5 while maintaining the temperature at about 20° to 60° C.; (6) cooling the reaction mixture of step (5) to about 0° to 10° C. to precipitate 2,4,5,6-tetraaminopyrimidine sulfate; and (7) recovering the precipitate.

reactant | 2,4,5,6-tetraaminopyrimidine sulfate | S(=O)(=O)(O)O.NC1=NC(=C(C(=N1)N)N)N
reactant | 5-nitroso-2,4,6-triaminopyrimidine | N(=O)C=1C(=NC(=NC1N)N)N | C4H6N6O
solvent | water | O | H2O
catalyst | zinc | [Zn] | Zn
product | 2,4,5,6-tetraaminopyrimidine | NC1=NC(=C(C(=N1)N)N)N | C4H8N6
